US08686184B2
3-Bromo-4-fluorobenzoic acid (109 mg, 497 μmol, 1.0 eq.), DIPEA (273 μL, 3.2 eq.), HATU (189 mg, 497 μmol, 1.0 eq.), and (2R,3R)-3-amino-2-hydroxy-4-phenyl-butyric acid ethyl ester (129 mg, 497 μmol, 1.0 eq.) were combined in DCM (2 mL) and stirred for 1 hour. The crude reaction was then chromatographed (0-80% EtOAc/hexanes gradient) to yield (2R,3R)-3-(3-bromo-4-fluoro-benzoylamino)-2-hydroxy-4-phenyl-butyric acid ethyl ester.

reactant | 3-Bromo-4-fluorobenzoic acid | 497 μmol, 109 mg, 1.0 eq. | BrC=1C=C(C(=O)O)C=CC1F | C7H4BrFO2
reactant | DIPEA | 273 μL, 3.2 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 497 μmol, 189 mg, 1.0 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3R)-3-amino-2-hydroxy-4-phenyl-butyric acid ethyl ester | 497 μmol, 129 mg, 1.0 eq. | C(C)OC([C@@H]([C@@H](CC1=CC=CC=C1)N)O)=O | C12H17NO3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (2R,3R)-3-(3-bromo-4-fluoro-benzoylamino)-2-hydroxy-4-phenyl-butyric acid ethyl ester | C(C)OC([C@@H]([C@@H](CC1=CC=CC=C1)NC(C1=CC(=C(C=C1)F)Br)=O)O)=O | C19H19BrFNO4
